US07776875B2
Preparation of Intermediate E/Z-6-Chloro-3-[5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzylidene]-1,3-dihydro-indol-2-one
To the mixture of 5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzaldehyde (2 g, 8.3 mmol) and 6-Chloro-1,3-dihydro-indol-2-one (1.27 g, 7.6 mmol) in methanol (20 mL) was added pyrrolidine (0.6 g, 9.1 mmol) dropwise. The mixture was then heated at 70° C. for 2 h. After cooled to room temperature, the mixture was filtered and resulting precipitate was collected, dried to give title compound as a yellow solid (2.3 g).

reactant | 5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzaldehyde | 8.3 mmol, 2 g | ClC=1C=CC(=C(C=O)C1)OCC1(COC1)C | C12H13ClO3
reactant | 6-Chloro-1,3-dihydro-indol-2-one | 7.6 mmol, 1.27 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyrrolidine | 9.1 mmol, 0.6 g | N1CCCC1 | C4H9N
solvent | methanol | 20 mL | CO | CH4O
product | Z-6-Chloro-3-[5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzylidene]-1,3-dihydro-indol-2-one | 2.3 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OCC1(COC1)C | C20H17Cl2NO3
